* E:\Codigos\pruebas\eaIII\EAIII\Doblador Frecuencia.asc
R1 N001 N002 42.4115008234622
L1 N002 N001 3.375e-07
I1 N002 0 PWL file=salida.txt
V1 N001 0 100
C1 N001 N002 1.8763182155988485e-08
.tran 0.006
.backanno
.end
