* E:\Codigos\pruebas\eaIII\EAIII\Doblador Frecuencia.asc
R1 N001 out 42.4115008234622
L1 out N001 3.375e-07
I1 out 0 PWL file=salida.txt
V1 N001 0 100
C1 N001 out 1.8763182155988485e-08
D1 out outdemod D
C2 N001 outdemod 22n
R2 N001 outdemod 10K
.model D D
.lib C:\Users\spaleka\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0.006
.backanno
.end
